US07615651B2
Preparation of Intermediate (3′-Cyano-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-5d)
(4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester (I-5c: 1.5 g, 4.00 mmol) was dissolved in 1,2-dimethoxyethane (15 ml) under nitrogen. Palladium tetrakis(triphenylphospine) (5 mol %) was added followed by an aqueous 2 M sodium carbonate solution (7 ml) and 3-cyano-phenyl boronic acid (0.883 g, 6.01 mmol) was added. The reaction mixture was heated at reflux for 24 hours before being cooled to room temperature and filtered through Celite, rinsing with dimethoxyethane. The filtrate was concentrated under reduced pressure and the residue purified by chromatography on silica gel eluting with 10% ethyl acetate in hexanes to afford 1.25 g (78%) of title product (I-5d).

reactant | (4-Bromo-3-fluoro-benzyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 4.00 mmol, 1.5 g | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)Br)F)=O | C17H25BrFNO2
reactant | sodium carbonate | 2 M, 7 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-cyano-phenyl boronic acid | 6.01 mmol, 0.883 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | 1,2-dimethoxyethane | 15 ml | COCCOC | C4H10O2
product | (3′-Cyano-2-fluoro-biphenyl-4-ylmethyl)-(3-methyl-butyl)-carbamic acid tert-butyl ester | 1.25 g, 78% | C(C)(C)(C)OC(N(CCC(C)C)CC1=CC(=C(C=C1)C1=CC(=CC=C1)C#N)F)=O | C24H29FN2O2
